US05280025
(12) Synthesis of 5-chloro-6-(1-fluoroethyl)-4-[1-(4-methylthiophenyl)ethylamino]pyrimidine (Compound 100)
In 80 ml of dichloromethane was dissolved 4.7 g of 5-chloro-6-(1-hydroxyethyl)-4-[1-(4-methylthiophenyl)ethylamino]pyrimidine, and to the mixture was added dropwise 2.6 g of diethylaminosulfur trifluoride under ice cooling. The mixture was stirred at room temperature for 1 hour.

reactant | 5-chloro-6-(1-hydroxyethyl)-4-[1-(4-methylthiophenyl)ethylamino]pyrimidine | 4.7 g | ClC=1C(=NC=NC1C(C)O)NC(C)C1=CC=C(C=C1)SC | C15H18ClN3OS
reactant | diethylaminosulfur trifluoride | 2.6 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 5-chloro-6-(1-fluoroethyl)-4-[1-(4-methylthiophenyl)ethylamino]pyrimidine | ClC=1C(=NC=NC1C(C)F)NC(C)C1=CC=C(C=C1)SC | C15H17ClFN3S
